US06448236B1
(2S,3S,4R,5R)-5-{2-{[([1,1′-Biphenyl]-4-ylsulfonyl)amino]methyl}-6-[(2,2diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
A solution of (3aS,4S,6R,6aR)-6-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-2,2-dimethyltetrahydrofuro[3,4-][1,3]dioxole4-carboxamide (Preparation 10) (140 mg, 0.25 mmol) and triethylamine (0.05 ml, 0.36 mmol) in anhydrous dichloromethane (1 ml) was treated with a solution of [1,1′-biphenyl]-4-sulfonyl chloride (J. Pharm. Sci., 1964, 53, 73) (71 mg, 0.28 mmol) in anhydrous dichloromethane (1 ml). The mixture was stirred at room temperature for 18 hours during which time the solvent was allowed to evaporate off freely. The residue was dissolved in ethanol (1 ml), treated with hydrochloric acid (1M, 1 ml) and heated at 60° C. for 15 hours. The solvent was removed under reduced pressure and the residue was azeotroped with ethanol (×2). The residue was then purified by column chromatography on silica gel eluting with a gradient system of dichloromethane: methanol (95:5 by volume) gradually changing to dichloromethane:methanol (90:10 by volume) to give a solid which was triturated with diethyl ether, diluted with pentane, filtered and dried to afford the title compound as a solid (110 mg).

reactant | (3aS,4S,6R,6aR)-6-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-2,2-dimethyltetrahydrofuro[3,4-][1,3]dioxole4-carboxamide | 0.25 mmol, 140 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NCC)NCC(C2=CC=CC=C2)C2=CC=CC=C2 | C30H35N7O4
reactant | triethylamine | 0.36 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | [1,1′-biphenyl]-4-sulfonyl chloride | 0.28 mmol, 71 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (2S,3S,4R,5R)-5-{2-{[([1,1′-Biphenyl]-4-ylsulfonyl)amino]methyl}-6-[(2,2diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 110 mg | C1(=CC=C(C=C1)S(=O)(=O)NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C39H39N7O6S
